reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:14])([C@@:4]1([H:10])[C:5]([H:12])([H:13])[O:6]1)[H:11])([H:7])([H:8])[H:9],80.4163119406482
[C:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([O-:3])[C+:4]([O:5][H:7])[N:6]([H:10])[H:11])([H:8])[H:9],47.4833207628067
[C:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[C:4])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],54.57819943739389
[N+:1](#[C-:2])[C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9]>>[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9],35.74455856602661
[C:1]([C@@:2]1([H:10])[O:3][C@@:5]([O:6][H:11])([H:14])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],38.5693112930761
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1]1([H:8])/[C:2](=[C:7](/[C:6](=[O:5])[H:9])[H:10])[N:4]=[N:3]1,98.2864505528048
[N:1]([c:2]1[n:3][n:4][c:5]([N:6]([H:10])[H:11])[o:7]1)([H:8])[H:9]>>[N:1]([C@@:2]1([H:10])[N:3]=[N:4]/[C:5](=[N:6]\[H:11])[O:7]1)([H:8])[H:9],104.122459106962
[O:1](/[C:5](=[C:4]1\[C:2]([H:9])([H:10])[C@@:3]1([C:6]#[C:7][H:13])[H:11])[H:12])[H:8]>>[O:1]([C:2]([C:3]([C:4]#[C:5][H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],82.3798966482011
[O:1]=[C:5]1[C:4]([H:8])([H:9])[O:3][C:2]([H:7])=[N:6]1>>[O:1]=[C:2]([O:3][C:4]([C:5]#[N:6])([H:8])[H:9])[H:7],126.79967644399771
[C:1](/[C:2](=[N:3]/[O:4][H:10])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([N:3]=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])[H:9].[H:8][H:10],104.87968834175
[N:1](=[C:2](/[N:3]([C:4](=[O:5])[H:9])[H:8])[H:7])\[H:6]>>[N:1](=[C:2](/[N+:3](=[C-:4][O:5][H:9])[H:8])[H:7])\[H:6],72.8661015277955
[C:1]([C:2](=[C:4]([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:6])([H:7])[H:8].[C:3]([H:9])([H:10])([H:11])[H:12]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:6])([H:7])[H:8],92.492613478443
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@@:4]1([H:15])[C:5]([H:16])([H:17])/[C:6]1=[N:7]\[H:18])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])[H:11])([H:8])([H:9])[H:10],71.7092727388226
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10].[H:14][H:16]>>[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],66.9267492731674
[C:1]([C:2]([C:3](=[O+:4][C-:5]([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:6]([H:13])([H:16])([H:17])[H:18]>>[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],23.980109926247067
[N:1](=[C:2](/[O:3][H:9])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])\[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],30.399169111920198
[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([c:3]1[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[o:7]1)([H:9])[H:10])[H:8],53.1120411503365
[C:1]([C:2]([C:3]([C-:4]=[O+:5][C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],0.19098746134800137
[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C@@:7]12[H:19])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:12])[C:7]1)([H:8])([H:9])[H:10],93.7812559470129
[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](\[C:4]([H:13])([H:14])[H:15])[C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:10])([H:7])([H:8])[H:9].[H:11][H:12],109.407821670215
[C:1]([C@@:2]1([H:10])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5][N:6]1[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],59.88831960701963
[O:1]([C:2]([C:3](=[O:4])[H:9])=[C:5]=[C:6]([H:8])[H:10])[H:7]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7],67.7730246683915
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6][O:7][H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],28.4455429481893
[C:1]([C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:9])([H:13])[O:5]1)([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[O:5])[H:13])[H:9])([H:6])([H:7])[H:8],57.56938260679831
